US06992087B2
Preparation of 5-bromo-3,6-diethyl-N-(5-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-(5-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.29, 1.89, 2.56, 2.70, 2.83, 2.87, 3.00, 3.83, 4.49, 5.61, 6.81, 6.85, 7.23; HRMS (FAB) calcd for C18H22BrN3O+H 376.1025, found 376.1008.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-diethyl-N-(5-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCC2=CC(=CC=C12)OC | C18H23N3O
product | 5-bromo-3,6-diethyl-N-(5-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCC2=CC(=CC=C12)OC)CC | C18H22BrN3O
